US05235103
To a solution of 3 g of N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(S)-3-chloromandelamide, SR 58588, described in Example 8(b), in 40 ml of anhydrous tetrahydrofuran, heated with reflux under nitrogen stream, there is added 2.7 ml of a 10M solution of boranemethylsulfide in 20 ml of tetrahydrofuran, and the refluxing is maintained for 4 hours. To the solution cooled to room temperature, there is added 25 ml of methanol and the reaction mixture is left under stirring at first at room temperature for 30 minutes and then at reflux for 30 minutes. The solution is concentrated under reduced pressure and, after filtration, the product is crystallized twice from isopropanol. There is obtained 2.1 g (73%) of N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(2S)-2-(3-chlorophenyl)-2-hydroxyethanamine, SR 58590; m.p. 186°-188° C.; [alpha]=+76° (methanol, c=0.5%).

reactant | N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(S)-3-chloromandelamide | 3 g | OC1=CC=C2CC[C@H](CC2=C1)NC([C@@H](O)C1=CC(=CC=C1)Cl)=O | C18H18ClNO3
reactant | methanol | 25 ml | CO | CH4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(2S)-2-(3-chlorophenyl)-2-hydroxyethanamine | 2.1 g, 73% | OC1=CC=C2CC[C@H](CC2=C1)NC[C@@H](O)C1=CC(=CC=C1)Cl | C18H20ClNO2
